US03953510
The method of claim 1 wherein nitrobenzene is reacted with propanol to form p-propoxyaniline.

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | propanol | C(CC)O | C3H8O
product | p-propoxyaniline | C(CC)OC1=CC=C(N)C=C1 | C9H13NO
